US07893267B2
1-(2-methylsulfanyl-ethyl)-isoquinoline-3-carboxylic acid was prepared according to General Procedure B using 49 mg (0.187 mmol) of 1-(2-methylsulfanyl-ethyl)-isoquinoline-3-carboxylic acid methyl ester, 0.28 mL of 2 N aq. LiOH, 2 mL of THF and 0.5 mL of methanol stirring at room temperature for 1 h. 42.4 mg (91%) of 1-(2-methylsulfanyl-ethyl)-isoquinoline-3-carboxylic acid was obtained. LCMS: 248 (M+1)+.

reactant | 1-(2-methylsulfanyl-ethyl)-isoquinoline-3-carboxylic acid methyl ester | 0.187 mmol, 49 mg | COC(=O)C=1N=C(C2=CC=CC=C2C1)CCSC | C14H15NO2S
reactant | LiOH | 2 N, 0.28 mL | [Li+].[OH-]
reactant | THF | 2 mL | C1CCOC1 | C4H8O
solvent | methanol | 0.5 mL | CO | CH4O
product | 1-(2-methylsulfanyl-ethyl)-isoquinoline-3-carboxylic acid | 42.4 mg, 91% | CSCCC1=NC(=CC2=CC=CC=C12)C(=O)O | C13H13NO2S
